US09290490B2
Ethyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)ethenyl]cyclohexanecarboxylate (40 mg, 0.12 mmol), 4-methylmorpholine N-oxide (31 mg, 0.27 mmol), THF (0.8 ml), water (0.4 ml) and osmium tetroxide (0.22 ml, 0.028 mmol) were combined and the mixture was stirred at room temperature for 40 min. The mixture was then diluted with saturated sodium thiosulfate and extracted with EtOAc. The organic phase was washed with water, brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified on silica gel (EtOAc/hexane=1/1) to afford racemic ethyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)-1,2-dihydroxyethyl]cyclohexane-carboxylate. MS ESI calc'd. for C14H20BrNO4S [M+H]+ 378, 380. found 378, 380. 1H NMR (500 MHz, CDCl3) δ 7.55 (s, 1H), 4.15 (dd, J=5.7, 11.1, 1H), 4.07 (q, J=7.1, 2H), 3.74 (dd, J=7.0, 11.1, 1H), 2.61 (t, J=6.4, 1H), 2.20-2.10 (m, 1H), 2.05-1.84 (m, 3H), 1.85-1.70 (m, 1H), 1.60 (d, J=12.8, 1H), 1.46-1.13 (m, 5H), 1.13-1.05 (m, 1H).

reactant | Ethyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)ethenyl]cyclohexanecarboxylate | 0.12 mmol, 40 mg | BrC1=CN=C(S1)C(=C)[C@@H]1CC[C@H](CC1)C(=O)OCC | C14H18BrNO2S
reactant | 4-methylmorpholine N-oxide | 0.27 mmol, 31 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | THF | 0.8 ml | C1CCOC1 | C4H8O
reactant | water | 0.4 ml | O | H2O
solvent | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
catalyst | osmium tetroxide | 0.028 mmol, 0.22 ml | [Os](=O)(=O)(=O)=O
product | racemic ethyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)-1,2-dihydroxyethyl]cyclohexane-carboxylate | BrC1=CN=C(S1)C(CO)(O)[C@@H]1CC[C@H](CC1)C(=O)OCC | C14H20BrNO4S
